US05714487
(7S,8aS)-7-(4-Fluorophenoxy)methyl-2-(6-chloropyridazin-3-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine
A mixture of 0.500 g (2.00 mmol) of (7SR,8aSR)-7-(4-fluoro-phenoxy)methyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine (Preparation 3), 1.49 g (10.0 mmol) of 3,6-dichloropyridazine, and 0.508 g (4.79 mmol) of sodium carbonate in 50 mL of isoamyl alcohol was heated to reflux for 48 h. The reaction was cooled to ambient temperature, the solvent removed in vacuo, the residue taken up in ethyl acetate and water, the pH was adjusted to 11 with sodium carbonate and the layers were separated. The aqueous phase was extracted with ethyl acetate, and the combined organic layers were dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography with 90:10 ethyl acetate:hexane gave 0.478 g (66%) of the title compound. mp (.HCl) 229° C. (dec). HRMS calcd for C18 H21ClFN4O (MH+): 363.1388, found: 363.1404.

reactant | (7SR,8aSR)-7-(4-fluoro-phenoxy)methyl-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 2.00 mmol, 0.500 g | FC1=CC=C(OCC2CC3N(CCNC3)C2)C=C1 | C14H19FN2O
reactant | 3,6-dichloropyridazine | 10.0 mmol, 1.49 g | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | sodium carbonate | 4.79 mmol, 0.508 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | isoamyl alcohol | 50 mL | C(CC(C)C)O | C5H12O
product | (7S,8aS)-7-(4-Fluorophenoxy)methyl-2-(6-chloropyridazin-3-yl)-1,2,3,4,6,7,8,8a-octahydro-pyrrolo[1,2-a]pyrazine | 0.478 g, 66% | FC1=CC=C(OC[C@H]2C[C@@H]3N(CCN(C3)C=3N=NC(=CC3)Cl)C2)C=C1 | C18H20ClFN4O
